US06534658B1
Synthesis of N-hydroxy-1-(2,2-dimethoxyethyl)-6-oxo-2-phenyl-1,6-dihydropyrimidin-5-ylcarboxamide
Triethylamine (49.4 ml) was added to a solution of 1-(2,2-dimethoxyethyl)-6-oxo-2-phenyl-1,6-dihydropyrimidin-5-ylcarboxylic acid (97.3 g) in tetrahydrofuran (800 ml) in an ice bath in an argon atmosphere, and isobutyl chlorocarbonate (45.6 ml) was added dropwise thereto at 5° C. or lower, followed by stirring at the same temperature for 1 hour. To the reaction mixture was added a 50% hydroxylamine aqueous solution (422 ml), followed by stirring for 20 minutes. The reaction mixture was separated to layers. The aqueous layer was extracted with ethyl acetate (200 ml). The organic layers were combined, washed with saturated saline (200 ml), and concentrated. To the residue was added toluene (200 ml), followed by concentration. The resulting crude crystals were washed with isopropyl ether (1000 ml) by heating under reflux for 10 minutes, cooled to room temperature, and crystals were collected by filtration. The collected crystals were dried in vacuo at room temperature overnight to obtain the title compound (93.3 g; yield: 91%) having the following physical properties.

reactant | Triethylamine | 49.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(2,2-dimethoxyethyl)-6-oxo-2-phenyl-1,6-dihydropyrimidin-5-ylcarboxylic acid | 97.3 g | COC(CN1C(=NC=C(C1=O)C(=O)O)C1=CC=CC=C1)OC | C15H16N2O5
reactant | isobutyl chlorocarbonate | 45.6 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | hydroxylamine | 422 ml | NO | H3NO
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | N-hydroxy-1-(2,2-dimethoxyethyl)-6-oxo-2-phenyl-1,6-dihydropyrimidin-5-ylcarboxamide | 93.3 g, yield: 91% | ONC(=O)C1=CN=C(N(C1=O)CC(OC)OC)C1=CC=CC=C1 | C15H17N3O5
